US09359371B2
In THF (30 mL) were dissolved 2-(3-azabicyclo[3.1.0]hexan-3-yl)-4-(3-chloro-4-methoxybenzylamino)-pyrimidine-5-carboxylic acid (202 mg, 0.54 mmol) and DIEA (0.3 mL, 1.78 mmol). The reaction mixture was cooled in an ice bath, then HATU (250 mg, 0.65 mmol) and cycloheptanyl amine (67 mg, 0.60 mmol) were added. The react ion was conducted at ambient temperature overnight. The reaction mixture was concentrated, quenched with water and extracted with ethyl acetate. The organic phase was dried, concentrated, and purified by silica gel column chromatography (ethyl acetate/petroleum ether=3/1) to give 2-(3-azabicyclo[3.1.0]hexan-3-yl)-4-((3-chloro-4-meth oxybenzyl)amino)-N-cycloheptanylpyrimidine-5-formamide (98 mg, 38.6% yield).

reactant | 2-(3-azabicyclo[3.1.0]hexan-3-yl)-4-(3-chloro-4-methoxybenzylamino)-pyrimidine-5-carboxylic acid | 0.54 mmol, 202 mg | C12CN(CC2C1)C1=NC=C(C(=N1)NCC1=CC(=C(C=C1)OC)Cl)C(=O)O | C18H19ClN4O3
reactant | DIEA | 1.78 mmol, 0.3 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | HATU | 0.65 mmol, 250 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | cycloheptanyl amine | 0.60 mmol, 67 mg | C1(CCCCCC1)N | C7H15N
solvent | THF | 30 mL | C1CCOC1 | C4H8O
product | 2-(3-azabicyclo[3.1.0]hexan-3-yl)-4-((3-chloro-4-meth oxybenzyl)amino)-N-cycloheptanylpyrimidine-5-formamide | 98 mg, 38.6% yield | C12CN(CC2C1)C1=NC=C(C(=N1)NCC1=CC(=C(C=C1)OC)Cl)C(=O)NC1CCCCCC1 | C25H32ClN5O2
